US07915250B2
To a stirred mixture of 3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]benzoic acid (12 g, 30.5 mmol), prepared using procedures similar to those described in U.S. Pat. No. 7,019,033, in dichloromethane (70 mL) at 0° C. was added pyridine (2.5 mL, 30.8 mmol) followed by dropwise addition of cyanuric fluoride (2.8 mL, 33.6 mmol). The reaction mixture was stirred at 0° C. for 10 minutes and then warmed to room temperature and stirred for 2 hours. The reaction mixture was diluted with water and extracted with dichloromethane (100 mL). The aqueous layer was extracted once with dichloromethane (50 mL). The combined organic layers were washed with saturated aqueous sodium bicarbonate solution, brine, dried over anhydrous sodium sulfate and concentrated in vacuo to give crude product as a brownish solid. Crude product was purified by flash chromatography (plug, 25% ethyl acetate in hexanes) to afford 3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]benzoyl fluoride as a beige solid (11.8 g, 97% yield). 1H NMR (400 MHz, CD3OD): 8.41 (s, 1H), 7.80-7.81 (m, 1H), 7.52 (dd, 1H), 7.43-7.47 (m, 1H), 6.96-7.03 (m, 1H), 6.85-6.92 (m, 1H).

reactant | 3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]benzoic acid | 30.5 mmol, 12 g | FC=1C(=C(C(=O)O)C=CC1F)NC1=C(C=C(C=C1)I)F | C13H7F3INO2
reactant | pyridine | 30.8 mmol, 2.5 mL | N1=CC=CC=C1 | C5H5N
reactant | cyanuric fluoride | 33.6 mmol, 2.8 mL | N1=C(F)N=C(F)N=C1F | C3F3N3
solvent | dichloromethane | 70 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]benzoyl fluoride | 11.8 g, 97% yield | FC=1C(=C(C(=O)F)C=CC1F)NC1=C(C=C(C=C1)I)F | C13H6F4INO
